US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A mixture of 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl) methyl]-1H-pyrido[4,3-b]indol-1-one (180 mg) and formamide (20 ml) was heated at 180° for 18 h. The solution was then cooled (0°), diluted with water (100 ml) and extracted with dichloromethane (3×100 ml). The combined extracts were concentrated in vacuo and purified by FCC eluting with System A (100:8:1) to give the title compound (110 mg), m.p. 230°-233°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl) methyl]-1H-pyrido[4,3-b]indol-1-one | 180 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC3=C(N=CO3)C | C17H16FN3O2
reactant | formamide | 20 ml | C(=O)N | CH3NO
solvent | water | 100 ml | O | H2O
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 110 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
